US05349068
a) 3,5-Dimethyl-4-(3-ethinylpropoxy)benzonitrile
Following the procedure of Example 1c and using 14.7 g (100 mmol) of 3,5-dimethyl-4-hydroxybenzonitrile and substituting 5-chloro-1-pentyne (12.7 mL, 120 mmol) for the product of Example 1b, there was obtained a red-brown oil which was purified by chromatography (Silica Gel 60, 15% ethyl acetate in hexanes) to give pure title compound (21.2 g, 99.4%) as a pale yellow oil.

reactant | 3,5-dimethyl-4-hydroxybenzonitrile | 100 mmol, 14.7 g | CC=1C=C(C#N)C=C(C1O)C | C9H9NO
reactant | 5-chloro-1-pentyne | 120 mmol, 12.7 mL | ClCCCC#C | C5H7Cl
product | 3,5-Dimethyl-4-(3-ethinylpropoxy)benzonitrile | 21.2 g, 99.4% | CC=1C=C(C#N)C=C(C1OCCCC#C)C | C14H15NO
